US07951819B2
3-Methoxy-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide (CJS 3688)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-methoxy-benzoyl chloride to afford the title compound as a brown solid (21 mg, 40%). 1H-NMR (δ, ppm, DMSO-d6): 3.83 (s, 3H, OMe), 6.49 (d, 1H, HPy,5, J=5.8 Hz), 6.90 (d, 1H, Harom, J=7.48 Hz), 7.16 (d, 1H, Harom, J=6.52 Hz), 7.39-7.49 (m, 3H, Harom), 7.52 (d, 1H, Harom, J=7.61 Hz), 7.62-7.68 (m, 2H, Harom), 7.81 (d, 1H, HPy,6, J=5.44 Hz), 10.31 (s, 1H, NHamide), 11.19 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2).

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-methoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
product | 3-Methoxy-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide | 21 mg, 40% | COC=1C=C(C(=O)NC2=CC(=CC=C2)OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C20H16N4O4
